US07572820B2
B. 5-[(Phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde
To a solution of 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole (1.5 g, 4.12 mmol) in THF (20 mL), under N2, at −78° C., was added n-BuLi (2.5M solution in hexane, 2.15 mL, 5.37 mmol) dropwise. After stirring at −78° C. for 30 min, anhydrous DMF (0.54 g, 7.42 mmol) was added. After 5 min, the −78° C. bath was replaced with an ice bath. After 45 min, sat'd NH4Cl solution (20 mL) was added and the mixture was partitioned between Et2O and water. The organic phase was washed with water and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (20-70% CH2Cl2-hexanes gradient) to afford the title compound (1.24 g, 77% yield): 1H NMR (400 MHz, CDCl3) δ 10.5 (s, 1H), 8.14 (d, J=9.3 Hz, 1H), 7.74 (d, J=7.6 Hz, 2H), 7.53 (t, J=7.6 Hz, 1H), 7.43-7.31 (m, 8H), 7.22 (dd, J=9.3, 2.4 Hz, 1H), 7.06 (d, J=2.4 Hz, 1H), 5.06 (s, 2H); MS (ES) m/z 392 (M+1).

reactant | 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole | 4.12 mmol, 1.5 g | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1 | C21H17NO3S
reactant | n-BuLi | 5.37 mmol, 2.5M, 2.15 mL | [Li]CCCC
reactant | DMF | 7.42 mmol, 0.54 g | CN(C)C=O | C3H7NO
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-[(Phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde | 1.24 g, 77% yield | C1(=CC=CC=C1)COC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C=O | C22H17NO4S
